US05474994
8-{3-[4-(2-Methoxyphenyl)-1-piperazinyl]-propoxycarbonyl}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran dihydrochloride
A mixture of 4.24 g of 8-carboxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran and 6.3 g of anhydrous potassium carbonate in 60 ml of dimethylformamide was stirred at 80° C. for 30 minutes. 5.23 g of 1-(3-chloropropyl)-4-(2-methoxyphenyl)-piperazine was then added and stirring was continued at 80° C. for 3.5 hours. The reaction mixture was cooled to ambient temperature, poured on to iced water and extracted with ethyl acetate. The organic extracts were washed with aqueous sodium chloride solution, dried on anhydrous sodium sulfate, and evaporated to dryness in vacuo. The residue was taken up in ethanol and excess ethanolic hydrogen chloride was added to the solution. Yield: 8.16 g of the title compound, m.p. 198°-203° C.

reactant | 8-carboxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 4.24 g | C(=O)(O)C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C17H12O4
reactant | potassium carbonate | 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-chloropropyl)-4-(2-methoxyphenyl)-piperazine | 5.23 g | ClCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C14H21ClN2O
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 8-{3-[4-(2-Methoxyphenyl)-1-piperazinyl]-propoxycarbonyl}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran dihydrochloride | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCOC(=O)C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | InChI=1S/C31H32N2O5.2ClH/c1-22-28(34)24-12-8-13-25(30(24)38-29(22)23-10-4-3-5-11-23)31(35)37-21-9-16-32-17-19-33(20-18-32)26-14-6-7-15-27(26)36-2;;/h3-8,10-15H,9,16-21H2,1-2H3;2*1H
